US07728000B2
To a solution of [3-[[3-(1,3-dioxo-3a,9b-dihydro-1H,3H-benzo[de]isoquinolin-2-yl)propyl]methylamino]propyl]carbamic acid tert-butyl ester (0.34 g, 0.81 mmol) in CH2Cl2 (24 ml) was added trifluoroacetic acid (6 ml). The reaction mixture was stirred at room temperature for 16 h at which point the reaction was completed by TLC. All solvents were removed under reduced pressure to give 2-[3-[(3-aminopropyl)methylamino]propyl]-3a,9b-dihydro-benzo[de]isoquinoline-1,3-dione (0.24 g, 92%) as an oil, which was used directly in the next reaction. 1H-NMR [MeOD, _, ppm]: 8.64 (m, 2H), 8.54 (m, 2H), 7.92 (m, 2H), 4.45 (m, 2H, 2CH2NO), 3.55 (m, 4H, 2CH2), 3.33 (m, 2H, CH2), 3.22 (s, 3H, N(CH3)), 2.44 (m, 4H, 2(CH2)).

reactant | [3-[[3-(1,3-dioxo-3a,9b-dihydro-1H,3H-benzo[de]isoquinolin-2-yl)propyl]methylamino]propyl]carbamic acid tert-butyl ester | 0.81 mmol, 0.34 g | C(C)(C)(C)OC(NCCCN(C)CCCN1C(C2=CC=CC=3C2C(C1=O)C=CC3)=O)=O | C24H33N3O4
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 24 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-[(3-aminopropyl)methylamino]propyl]-3a,9b-dihydro-benzo[de]isoquinoline-1,3-dione | 0.24 g, 92% | NCCCN(CCCN1C(C2=CC=CC=3C2C(C1=O)C=CC3)=O)C | C19H25N3O2
